### PR TITLE
[Merged by Bors] - feat: transfer `Coalgebra.IsCocomm` across an `Equiv`

### PR DESCRIPTION
**Pull request by YaelDillies**
... and generalise the existing `tensorProductAssoc_def` to be about possibly several transferred instances.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 1]
```diff
@@ -1505,3 +1505,22 @@ theorem rTensor_neg (f : N →ₗ[R] P) : (-f).rTensor Q = -f.rTensor Q := by
 end LinearMap
 
 end Ring
+
+namespace Equiv
+variable {R A B : Type*} [CommSemiring R]
+
+variable (R) in
+open TensorProduct in
+lemma tensorProductComm_def [AddCommMonoid B] [Module R B] (e : A ≃ B) :
```
Comment (joelriou) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean]: Could you implement the more general version for `TensorProduct.comm R A A'` where the structures on both `A` and `A'` are obtained by transfer via a bijection?

File: Mathlib/RingTheory/Coalgebra/Basic.lean [hunk 2]
```diff
@@ -480,4 +480,25 @@ abbrev coalgebra [AddCommMonoid B] [Module R B] [Coalgebra R B] (e : A ≃ B) :
...
+lemma coalgebraIsCocomm [AddCommMonoid B] [Module R B] [Coalgebra R B] [IsCocomm R B] (e : A ≃ B) :
+    letI := e.addCommMonoid
+    letI := e.module R
+    letI := e.coalgebra R
+    IsCocomm R A :=
+  letI := e.addCommMonoid
+  letI := e.module R
+  letI := e.coalgebra R
+  { comm_comp_comul := by
+      -- TODO: `reassoc` for `LinearMap`
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/Basic.lean]: Could you expand this with a few more words? Do you mean "implement `@[reassoc]`"? What would you tag with it if so?

File: Mathlib/LinearAlgebra/TensorProduct/Associator.lean [hunk 3]
```diff
@@ -343,26 +343,26 @@ lemma rTensor_lTensor_comp_assoc_symm (x : M →ₗ[R] N) :
...
-      (TensorProduct.assoc R B B B) <| congr (e.linearEquiv R).symm <|
-        congr (e.linearEquiv R).symm (e.linearEquiv R).symm) := by
+lemma tensorProductAssoc_def (eA : A ≃ A') (eB : B ≃ B') (eC : C ≃ C') :
+    letI := eA.addCommMonoid
+    letI := eB.addCommMonoid
+    letI := eC.addCommMonoid
+    letI := eA.module R
+    letI := eB.module R
+    letI := eC.module R
+    TensorProduct.assoc R A B C = .trans
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/Associator.lean:359]: Please mention this generalization in the PR description.

File: Mathlib/LinearAlgebra/TensorProduct/Associator.lean [hunk 4]
```diff
@@ -343,26 +343,26 @@ lemma rTensor_lTensor_comp_assoc_symm (x : M →ₗ[R] N) :
 end LinearMap
 
 namespace Equiv
-variable {R A B : Type*} [CommSemiring R]
+variable {R A A' B B' C C' : Type*} [CommSemiring R]
+  [AddCommMonoid A'] [AddCommMonoid B'] [AddCommMonoid C'] [Module R A'] [Module R B'] [Module R C']
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/Associator.lean]: nit:
```suggestion
variable {R A A' B B' C C' : Type*}
variable [CommSemiring R] [AddCommMonoid A'] [AddCommMonoid B'] [AddCommMonoid C']
variable [Module R A'] [Module R B'] [Module R C']
```
for slightly more semantic line breaks

File: Mathlib/LinearAlgebra/TensorProduct/Associator.lean [hunk 5]
```diff
@@ -343,26 +343,26 @@ lemma rTensor_lTensor_comp_assoc_symm (x : M →ₗ[R] N) :
...
 
 variable (R) in
 open TensorProduct in
--- TODO: Is there a better place for this?
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/Associator.lean:350]: I'd be inclined to keep this comment; these lemmas do feel a bit weird to me, but that's out of scope for this PR.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/LinearAlgebra/TensorProduct/Associator.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/TensorProduct/Associator.lean:350]: I wrote that comment back when I was putting it in `RingTheory.TensorProduct.Basic`. I subsequently moved it to where it is now but forgot to remove the comment. I don't know how it could be moved to a better place since this file is where `assoc` is defined.
